US08404684B2
a) 1-[2-(4-Methoxy-benzylamino)-4-methyl-thiazol-5-yl]-ethanone
A stirred suspension of 3-chloro, 2,4-pentanedione (1.0 g, 7.43 mmol) and 1-(4-methoxy benzyl)-2-thiourea (1.46 g, 7.43 mmol) in methanol (10 ml) is treated with pyridine (0.6 ml). The reaction mixture is stirred at room temperature for 2 hours and then the solvent is removed in vacuo. The crude residue is triturated with ether to yield the titled compound as a white solid.

reactant | 2,4-pentanedione | 7.43 mmol, 1.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | 1-(4-methoxy benzyl)-2-thiourea | 7.43 mmol, 1.46 g | COC1=CC=C(CNC(=S)N)C=C1 | C9H12N2OS
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 10 ml | CO | CH4O
product | 1-[2-(4-Methoxy-benzylamino)-4-methyl-thiazol-5-yl]-ethanone | COC1=CC=C(CNC=2SC(=C(N2)C)C(C)=O)C=C1 | C14H16N2O2S
